US09422281B2
A 500-mL round bottom flask fitted with a nitrogen inlet, magnetic stir bar, and condenser was charged with (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone (6.25 g, 21.17 mmol), 2-methyltetrahydrofuran (132 mL), potassium acetate (5.20 g, 52.9 mmol), and bis(pinacolato)diboron (5.91 g, 23.29 mmol). Nitrogen was bubbled through the mixture for 30 min and then [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.173 g, 0.212 mmol) was added. The mixture was heated to 75° C. for 24 h and then cooled to room temperature. Water was added, and the organic phase was separated and washed with and brine (50 mL), and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 4:1 dichloromethane-ethyl acetate followed by a second column eluting with 8:1 dichloromethane-ethyl acetate) to afford a solid which was crystallized from 10:1 hexanes-ethyl acetate to afford (S)-cyclopropyl(3-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone (4.37 g, 60%) as an off-white solid. MS (ESI, pos. ion) m/z 343 [M+1]+.

reactant | (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone | 21.17 mmol, 6.25 g | BrC1=CC=C2N[C@H](CN(C2=C1)C(=O)C1CC1)C | C13H15BrN2O
reactant | 2-methyltetrahydrofuran | 132 mL | CC1OCCC1 | C5H10O
reactant | potassium acetate | 52.9 mmol, 5.20 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 23.29 mmol, 5.91 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.212 mmol, 0.173 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | Water | O | H2O
product | (S)-cyclopropyl(3-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone | 4.37 g, 60% | C1(CC1)C(=O)N1C[C@@H](NC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C | C19H27BN2O3
